US07166599B2
2-chloro-4-methylamino-5-methoxycarbonyl-pyrimidine
19.1 g of potassium carbonate in 50 ml water are added dropwise to 13 g of 2,4-dichloro-5-methoxycarbonyl-pyrimidine and 4.7 g of methylamine-hydrochloride in 500 ml acetone at 0 to 5° C. within one hour. Then the mixture is stirred for one hour in an ice bath. The acetone is largely removed in vacuo and the residue is distributed between water and ethyl acetate. Then the aqueous phase is extracted twice more with ethyl acetate. The combined organic phases are dried and evaporated down. The residue is separated by chromatography through a silica gel column with cyclohexane/ethyl acetate (2:1).

reactant | potassium carbonate | 19.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichloro-5-methoxycarbonyl-pyrimidine | 13 g | ClC1=NC=C(C(=N1)Cl)C(=O)OC | C6H4Cl2N2O2
reactant | methylamine-hydrochloride | 4.7 g | Cl.CN
solvent | water | 50 ml | O | H2O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 2-chloro-4-methylamino-5-methoxycarbonyl-pyrimidine | ClC1=NC=C(C(=N1)NC)C(=O)OC | C7H8ClN3O2
